US04298537
Specifically, the crude 3β-acetoxy-24-oxocholest-5-ene was dissolved in 100 ml of a mixture of methanol and benzene (1:1). To the solution was added dropwise a 10% methanol solution of potassium hydroxide at room temperature with stirring. After the addition, the mixture was stirred at 70° C. for 4 hours. After the reaction, 100 mg of water was added to separate the reaction mixture into layers. The resulting aqueous layer was extracted twice with benzene. The benzene extracts were combined with the organic layer. The mixture was washed successively with dilute hydrochloric acid, a saturated aqueous solution of sodium bicarbonate, and a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, filtered, and concentrated to form 3.6 g (yield: 90% based on 3β-acetoxychol-5-enic acid) of 3β-hydroxy-24-oxocholest-5-ene as a white solid. The properties of the product were as follows:

reactant | 3β-acetoxy-24-oxocholest-5-ene | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C29H46O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 100 mg | O | H2O
solvent | methanol | CO | CH4O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3β-hydroxy-24-oxocholest-5-ene | 3.6 g, yield: 90% | O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H44O2
